US06180759B2
A mixture of 40 kg of N-benzyloxycarbonyl) succinimide and 26 kg (175 mol) of 4-piperidone hydrochloride hydrate in 38.8 kg of water and 88 kg of tetrahydrofuran is stirred at about 15° C. until dissolution is complete (˜15 minutes). N-methylmorpholine (22.8 kg) is added to the agitated mixture (exothermic) while maintaining the temperature at or below 20° C. The reaction mixture is agitated at about 20° C. for 2.5 hours, at which point HPLC indicates complete reaction. The mixture is diluted with 115.2 kg of methyl tert-butyl ether and 38.8 kg of water and is agitated at about 20° C. for 5 minutes. Agitation is stopped, the layers are allowed to separate, and the aqueous (lower) layer is removed and discarded. The organic layer is washed twice with 129.6 kg of water (agitate 5 minutes, separate phases, remove/discard aqueous [lower] phase). The organic layer is washed with 5.2 kg of NaCl in 46.8 kg of water (agitate 5 minutes, separate phases, remove/discard aqueous [lower] layer). The organic layer is treated with 11.5 kg of MgSO4, with agitation for 1 hour, then the mixture is filtered. The reactor is rinsed with 8 kg of methyl tert-butyl ether (filtered, combined with main filtrate; total filtrate water content: 0.52%). The filtrate volume is reduced by half via distillation at reduced pressure at 30° C. Vacuum is broken to nitrogen and the residue is cooled to 20° C. (pot residue water content: 0.43%). The residue is diluted with 57.6 kg of methyl tert-butyl ether, then mixture volume is reduced again by half via distillation under vacuum at 30° C. Vacuum is released to nitrogen and the mixture is cooled to 20° C. (pot residue water content: 0.25%). This is repeated 5 additional times. The final pot residue is diluted with 28.8 kg of methyl tert-butyl ether and mixed for 5 minutes, then assayed for water content and content of 1-phenylmethoxycarbonyl-4-piperidone (water: 0.05%; wt/wt assay 1-phenylmethoxycarbonyl-4-piperidone: 22.66 wt%, 35.36 kg, 155 mole, 88.6% yield.).

reactant | succinimide | C1(CCC(N1)=O)=O | C4H5NO2
reactant | 4-piperidone hydrochloride hydrate | 175 mol, 26 kg | O.Cl.N1CCC(CC1)=O
reactant | tetrahydrofuran | 88 kg | O1CCCC1 | C4H8O
reactant | N-methylmorpholine | 22.8 kg | CN1CCOCC1 | C5H11NO
solvent | water | 38.8 kg | O | H2O
solvent | methyl tert-butyl ether | 115.2 kg | C(C)(C)(C)OC | C5H12O
solvent | water | 38.8 kg | O | H2O
product | 1-phenylmethoxycarbonyl-4-piperidone | 155 mole, 35.36 kg, 88.6% yield | C1(=CC=CC=C1)COC(=O)N1CCC(CC1)=O | C13H15NO3
